US04599451
To 4-t-Butylphenol (10.0 g, 0.067 moles) was added 2.8 g zirconium n-propoxide in n-propanol consisting of 21.6% zirconium (0.007 mole) and 10.8% free propanol. The mixture was distilled at atmospheric pressure removing 1.8 g of n-propanol. To the mixture was added ethyl disulfide (8.2 g, 0.067 moles). The mixture was heated under nitrogen while ethyl mercaptan was removed continuously by distillation. Heating under nitrogen was continued for a total of 142 hours during which temperature slowly increased to 194° C. The mixture was cooled, hydrolyzed by addition of water, and made acid with concentrated HCl. The mixture was extracted with ether. The ether extracts were dried over magnesium sulfate, filtered, and concentrated on a rotary flash evaporator. GC analysis of the concentrate indicated only two major components, 2.5 g of 4-t-butylphenol and 6.8 g of 2-ethylthio-4-t-butylphenol (49% yield).

reactant | 4-t-Butylphenol | 0.067 moles, 10.0 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | ethyl disulfide | 0.067 moles, 8.2 g | C(C)SSCC | C4H10S2
reactant | ethyl mercaptan | C(C)S | C2H6S
reactant | 4-t-butylphenol | 2.5 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
solvent | n-propanol | C(CC)O | C3H8O
catalyst | zirconium n-propoxide | 2.8 g | CCCO.CCCO.CCCO.CCCO.[Zr]
catalyst | zirconium | 0.007 mole | [Zr] | Zr
product | 2-ethylthio-4-t-butylphenol | 6.8 g, 49% yield | C(C)SC1=C(C=CC(=C1)C(C)(C)C)O | C12H18OS
